US05977141
(a) N-[(Phenylmethyl)oxy]-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-acetamide
In a separate flask containing a cool (5° C.), stirred solution of [4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-acetic acid (0.2307 g, 0.0006161 mol) and 1-hydroxy-benzo-1,2,3-triazole (0.0842 g, 0.000623 mol) in anhydrous tetrahydrofuran (10 mL) was added in one portion 1,3-dicyclohexyl-carbodiimide (0.1449 g, 0.000702 mol). The mixture was stirred for 30 minutes at 5° C. then allowed to warm to room temperature. After 3 hours at room temperature, the mixture was added in one portion to the filtrate containing O-benzylhydroxylamine. The mixture was stirred at room temperature for 16 hours, then refluxed (74° C.) for 1 hour. The volatiles were rotary evaporated off, and the residue was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The organics were combined, washed with 0.1 M NaOH, water, 0.1 M HCl , water, and saturated sodium chloride. The organic layer was dried (MgSO4) and rotary evaporated. The residue was dissolved in chloroform, and chromatographed on silica gel (34 g, 230-400 mesh) eluting with dichloromethane-acetone (9:1, 10×30 mL). Fractions containing product were rotary evaporated to give a white solid. The solid was dried in vacuo; yield 0.1448 g (49%), mp=163-165° C.

reactant | [4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-acetic acid | 0.0006161 mol, 0.2307 g | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C19H22N2O4S
reactant | 1-hydroxy-benzo-1,2,3-triazole | 0.000623 mol, 0.0842 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexyl-carbodiimide | 0.000702 mol, 0.1449 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[(Phenylmethyl)oxy]-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-acetamide | C1(=CC=CC=C1)CONC(CNS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1)=O | C26H29N3O4S
